US06376491B1
To an anhydrous ethanol (2 ml) was added sodium (50 mg) at 0° C. under argon atmosphere. After 10 minutes, (2-cyclopropanecarbonyl-3-hydroxy-phenoxy)-acetic acid ethyl ester (380 mg) was added to the reaction mixture and the reaction mixture was stirred overnight at 0° C. The reaction was quenched with 2 N hydrochloric acid (5 ml) and stirred for 30 minutes yielding a white precipitate. The mixture was diluted with ethyl acetate (10 ml), washed with water (5 ml) and brine (5 ml), dried over anhydrous sodium sulfate, concentrated in vacuo. The residue was purified by silica gel column chromatography developed by hexane-ethyl acetate yielding 3-cyclopropyl-4-hydroxy-benzofuran-2-carboxylic acid ethyl ester (298 mg) as a white solid. FAB-MS: m/z 246 (M+); 1H-NMR (CDCl3): δ 0.99-1.05 (2H, m), 1.17-1.24 (2H, m), 1.45 (3H, t, J=7.26 Hz), 2.26-2.35 (1H, m), 4.45 (2H, q, J=7.26 Hz), 6.27 (1H, s), 6.71 (1H, dd, J=0.99 Hz, 8.25 Hz), 7.09 (1H, dd, J=0.99 Hz, 8.25 Hz), 6.41 (2H, d, J=8.25 Hz), 7.29 (1H, dd, J=8.25 Hz, 8.25 Hz).

reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium | 50 mg | [Na] | Na
reactant | (2-cyclopropanecarbonyl-3-hydroxy-phenoxy)-acetic acid ethyl ester | 380 mg | C(C)OC(COC1=C(C(=CC=C1)O)C(=O)C1CC1)=O | C14H16O5
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-cyclopropyl-4-hydroxy-benzofuran-2-carboxylic acid ethyl ester | 298 mg | C(C)OC(=O)C=1OC2=C(C1C1CC1)C(=CC=C2)O | C14H14O4
